US08044082B2
72 mg (0.52 mmol) of potassium carbonate are added to a solution of 120 mg (0.52 mmol) of 1-phenyl-1,3-diazaspiro[4.5]decan-4-one and 132 mg (0.52 mmol) of 2-chloro-N-(2,6-diisopropylphenyl)acetamide (described in Example 1 a) in 20 ml of methyl ethyl ketone. The reaction medium is stirred at room temperature for 12 hours and then for 6 h at reflux. The medium is then filtered and then the residue is chromatographed on silica gel (heptane then heptane/ethyl acetate 50/50, v/v). 135 mg of N-(2,6-diisopropylphenyl)-2-(4-oxo-1-phenyl-1,3-diazaspiro[4.5]dec-3-yl)acetamide are obtained in the form of a white solid. Yield=58%, m.p.=251-3° C.

reactant | potassium carbonate | 0.52 mmol, 72 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-phenyl-1,3-diazaspiro[4.5]decan-4-one | 0.52 mmol, 120 mg | C1(=CC=CC=C1)N1CNC(C12CCCCC2)=O | C14H18N2O
reactant | 2-chloro-N-(2,6-diisopropylphenyl)acetamide | 0.52 mmol, 132 mg | ClCC(=O)NC1=C(C=CC=C1C(C)C)C(C)C | C14H20ClNO
solvent | methyl ethyl ketone | 20 ml | C(C)C(=O)C | C4H8O
product | N-(2,6-diisopropylphenyl)-2-(4-oxo-1-phenyl-1,3-diazaspiro[4.5]dec-3-yl)acetamide | 135 mg, Yield=58% | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(CN1CN(C2(C1=O)CCCCC2)C2=CC=CC=C2)=O | C28H37N3O2
